US07268135B2
2-[4′-(4-Fluoro-phenylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester (223 mg) was dissolved in dichloroethane (7.5 mL) and added with TFA (2.5 mL). The mixture was stirred at room temperature for 5 hrs and TLC indicated the reaction was complete. Regular work-up and column chromatography to give 2-[4′-(4-Fluoro-phenylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid in 89% yield (178 mg).

reactant | 2-[4′-(4-Fluoro-phenylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester | 223 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)F)=O)=O | C28H31FN2O6S
reactant | TFA | 2.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloroethane | 7.5 mL | ClC(C)Cl | C2H4Cl2
product | 2-[4′-(4-Fluoro-phenylcarbamoyloxy)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid | 89% yield | FC1=CC=C(C=C1)NC(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)C(C)C | C24H23FN2O6S
